US07091199B1
Preparation of [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-(2-trifluoromethylbenzyl)-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole (0.250 g, 0.771 mmol), potassium carbonate (0.205 g, 1.48 mmol), 2-(trifluoromethyl)benzylamine (0.676 mg, 3.86 mmol) and acetonitrile (4 mL) essentially as described above in example 18 except that the reaction is run overnight and the compound is purified by column using a solvent gradient of 5% ethyl acetate in dichloromethane to 10% methanol in ethyl acetate to give the title compound (0.311 g, 96% Yield). Purity by LC/MS (APCI)=99%, [M+H]+=419.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | 0.771 mmol, 0.250 g | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | 1.48 mmol, 0.205 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(trifluoromethyl)benzylamine | 3.86 mmol, 0.676 mg | FC(C1=C(CN)C=CC=C1)(F)F | C8H8F3N
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
product | [2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-(2-trifluoromethylbenzyl)-amine | 0.311 g, 96% Yield | O1N=C(C2=C1C=CS2)C=2C=C(OCCNCC1=C(C=CC=C1)C(F)(F)F)C=CC2 | C21H17F3N2O2S
